US04952587
(b) 3-[2-(1-Methylindol-3-yl)-1,3-thiazol-4-yl]pyridinium hydrobromide
1-Methylindole-3-thiocarboxamide (0.5 g) was dissolved in anhydrous DMF (5 ml). This solution was added to a stirred suspension of 3-bromoacetylpyridinium hydrobromide (1.1 g) in anhydrous DMF (2 ml). This was stirred for 10 minutes at room temperature. The title compound was isolated by filtration and was washed thoroughly with ether, 0.5 g. δH (360 MHz, DMSO-d6) 3.91 (3H, s, NCH3), 7.2-7.4 (2H, m, H-5 and H-6), 7.58 (1H, d, J=7.4 Hz, H-7), 8.03 (1H, dd, J=5.5, 8.1 Hz, H-5" β-pyr), 8.26 (1H, s, H-5' thiazole), 8.36 (1H, d, partially buried, H-4), 8.38 (1H, s, H-2), 8.83 (1H, mc, H-4" γ-pyr), 8.99 (1H, d, J=8.2 Hz, H-6" α-pyr), 9.47 (1H, mc, H-2" α-pyr); m/z 291 (M+, 100%), 135 (30).

reactant | 1-Methylindole-3-thiocarboxamide | 0.5 g | CN1C=C(C2=CC=CC=C12)C(N)=S | C10H10N2S
reactant | 3-bromoacetylpyridinium hydrobromide | 1.1 g | Br.BrCC(=O)C=1C=[NH+]C=CC1
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-[2-(1-Methylindol-3-yl)-1,3-thiazol-4-yl]pyridinium hydrobromide | Br.CN1C=C(C2=CC=CC=C12)C=1SC=C(N1)C=1C=[NH+]C=CC1 | InChI=1S/C17H13N3S.BrH/c1-20-10-14(13-6-2-3-7-16(13)20)17-19-15(11-21-17)12-5-4-8-18-9-12;/h2-11H,1H3;1H/p+1
